US07812027B2
(2R,3S,5R)-5-[2-(Trifluoromethyl)-5,8-dihydropyrido[3,4-d]pyrimidin-7(6H)-yl]-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-amine, dihydrochloride salt
To a solution of 45 mg (0.13 mmol) of tert-butyl [(2R,3S)-5-oxo-2-(2,4,5-trifluorophenyl) tetrahydro-2H-pyran-3-yl]carbamate and 27 mg (0.13 mmol) of 2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine in 2.0 mL of dry methanol was added 5.0 mg (0.039 mmol) of decaborane. The reaction mixture was stirred overnight and concentrated in vacuo, then purified by preparative thin layer chromatography using an Analtech® 1000 micron plate (5% methanol/methylene chloride, 1% concentrated ammonium hydroxide) to give the product which was stirred with hydrochloric acid in methanol (1.3M, 4 mL) for 1 h to give the title product. LC/MS 432.93 (M+1).

reactant | tert-butyl [(2R,3S)-5-oxo-2-(2,4,5-trifluorophenyl) tetrahydro-2H-pyran-3-yl]carbamate | 0.13 mmol, 45 mg | O=C1C[C@@H]([C@H](OC1)C1=C(C=C(C(=C1)F)F)F)NC(OC(C)(C)C)=O | C16H18F3NO4
reactant | 2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.13 mmol, 27 mg | FC(C=1N=CC2=C(N1)CNCC2)(F)F | C8H8F3N3
reactant | decaborane | 0.039 mmol, 5.0 mg | [B][B][B][B][B][B][B][B][B][B] | B10
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2.0 mL | CO | CH4O
solvent | methanol | 1.3M, 4 mL | CO | CH4O
product | (2R,3S,5R)-5-[2-(Trifluoromethyl)-5,8-dihydropyrido[3,4-d]pyrimidin-7(6H)-yl]-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-amine, dihydrochloride salt | Cl.Cl.FC(C=1N=CC2=C(N1)CN(CC2)[C@@H]2C[C@@H]([C@H](OC2)C2=C(C=C(C(=C2)F)F)F)N)(F)F | InChI=1S/C19H18F6N4O.2ClH/c20-12-5-14(22)13(21)4-11(12)17-15(26)3-10(8-30-17)29-2-1-9-6-27-18(19(23,24)25)28-16(9)7-29;;/h4-6,10,15,17H,1-3,7-8,26H2;2*1H/t10-,15+,17-;;/m1../s1
